US07230020B2
5-amino-indan-1-one (73 mg, 0.50 mmol) in THF (6 mL) with 4-biphenylcarbonyl chloride (140 mg, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave biphenyl-4-carboxylic acid (1-oxo-indan-5-yl)-amide (100 mg, 0.30 mmol, 60% yield) as a brown powder after purification by washing the crude product with ethyl acetate.

reactant | 5-amino-indan-1-one | 0.50 mmol, 73 mg | NC=1C=C2CCC(C2=CC1)=O | C9H9NO
reactant | 4-biphenylcarbonyl chloride | 0.65 mmol, 140 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | biphenyl-4-carboxylic acid (1-oxo-indan-5-yl)-amide | 0.30 mmol, 100 mg, 60% yield | O=C1CCC2=CC(=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H17NO2
